US06177422B1
3-Hydroxy-4-nitro-benzaldehyde (7.5 g, 44.9 mmol) is treated with 1,3-propanediol (5.1 g, 67.3 mmol) according to the procedure of Example 1 to give 2-(3-hydroxy-4-nitro-phenyl)-1,3-dioxane (9.6 g, 95% yield) oil.

reactant | 3-Hydroxy-4-nitro-benzaldehyde | 44.9 mmol, 7.5 g | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
reactant | 1,3-propanediol | 67.3 mmol, 5.1 g | C(CCO)O | C3H8O2
product | 2-(3-hydroxy-4-nitro-phenyl)-1,3-dioxane | 9.6 g, 95% yield | OC=1C=C(C=CC1[N+](=O)[O-])C1OCCCO1 | C10H11NO5
